US04187310
Iron powder (18 g.) was added over 40 minutes to a stirred solution of 1-(4-chlorobenzyl)-1,2-dihydro-6-nitro-2-oxoquinol-4-ylacetic acid (13 g.) in 50% v/v aqueous acetic acid (200 ml.) at 90° C. When the addition was completed, the mixture was stirred a further 70 minutes at 90° C. and then poured into an ice-water mixture (700 ml.). The mixture was adjusted to pH 1 with hydrochloric acid, and then filtered. The filtrate was adjusted to pH 6 with ammonium hydroxide solution, and the resulting mixture filtered. The solid residue (13 g.) was dissolved as far as possible in 2 N-sodium hydroxide solution, and the mixture was filtered. The filtrate was adjusted to pH 6 with glacial acetic acid, and the precipitated solid was filtered off, stirred with hot water (85° C., 200 ml.) and filtered while hot to give 6-amino-1-(4-chlorobenzyl)-1,2-dihydro-2-oxoquinol-4-ylacetic acid, m.p. 196°-9° C., (decomposition) in 52% yield.

reactant | 1-(4-chlorobenzyl)-1,2-dihydro-6-nitro-2-oxoquinol-4-ylacetic acid | 13 g | ClC1=CC=C(CN2C(C=C(C3=CC(=CC=C23)[N+](=O)[O-])CC(=O)O)=O)C=C1 | C18H13ClN2O5
reactant | hydrochloric acid | Cl | ClH
catalyst | Iron | 18 g | [Fe] | Fe
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 6-amino-1-(4-chlorobenzyl)-1,2-dihydro-2-oxoquinol-4-ylacetic acid | 52% yield | NC=1C=C2C(=CC(N(C2=CC1)CC1=CC=C(C=C1)Cl)=O)CC(=O)O | C18H15ClN2O3
